US03957757
5.3 gm of the methosulfate of 3-chloro-9-methoxycarbonyl-10-methyl-acridinium were added to a mixture of 50 cc of ethanol and 2.5 cc of water and after the addition of 5.3 gm potassium borohydride while maintaining a 25°C temperature, the mixture was stirred for 30 minutes and poured into water. After stirring for 30 minutes, the mixture was extracted with ether and the ether phase was washed with water, dried over magnesium sulfate and distilled to dryness in vacuo. The residue was dissolved in 30 cc of refluxing isopropyl ether, filtered and concentrated to 20 cc. The mixture was iced for 30 minutes and filtered. The precipitate was washed with iced isopropyl ether and dried in vacuo to obtain 3.18 gm of 3-chloro-9-methoxycarbonyl-10-methyl-acridane which was used as is for the next step.

reactant | 3-chloro-9-methoxycarbonyl-10-methyl-acridinium | ClC=1C=CC2=C(C3=CC=CC=C3[N+](=C2C1)C)C(=O)OC
reactant | ethanol | 50 cc | C(C)O | C2H6O
reactant | potassium borohydride | 5.3 gm | [BH4-].[K+]
solvent | water | O | H2O
solvent | water | 2.5 cc | O | H2O
product | 3-chloro-9-methoxycarbonyl-10-methyl-acridane | 3.18 gm | ClC=1C=CC=2C(C3=CC=CC=C3N(C2C1)C)C(=O)OC | C16H14ClNO2
